US06677324B1
A solution of 1.77 g of 11β-fluoro-7x-[5-(methylamino)-pentyl]oestra-1,3,5(10)-triene-3,17β-diol in 18 ml of dimethylformamide is stirred at a bath temperature of 80° C. for 1 hour with 1.4 g of 8,8,9,9,9-penta-fluorononyl tosylate. The mixture is then added to water, extracted 3 times with ethyl acetate, washed with water and sodium chloride solution, dried over sodium sulphate, concentrated in vacuo and the residue is chromatographed on silica gel using dichloromethane/methanol. 11β-Fluoro-7α-{5-[methyl(8,8,9,9,9-penta-fluorononyl)amino]pentyl}oestra-1,3,5(10)-triene-3,17β-diol is obtained as crystals of melting point 11° C.

reactant | 11β-fluoro-7x-[5-(methylamino)-pentyl]oestra-1,3,5(10)-triene-3,17β-diol | 1.77 g | F[C@@H]1[C@@H]2C=3C=CC(=CC3CC([C@H]2[C@@H]2CC[C@@H]([C@@]2(C)C1)O)CCCCCNC)O | C24H36FNO2
reactant | 8,8,9,9,9-penta-fluorononyl tosylate | 1.4 g | S(=O)(=O)(OCCCCCCCC(C(F)(F)F)(F)F)C1=CC=C(C)C=C1 | C16H21F5O3S
reactant | water | O | H2O
solvent | dimethylformamide | 18 ml | CN(C=O)C | C3H7NO
product | 11β-Fluoro-7α-{5-[methyl(8,8,9,9,9-penta-fluorononyl)amino]pentyl}oestra-1,3,5(10)-triene-3,17β-diol | F[C@@H]1[C@@H]2C=3C=CC(=CC3C[C@H]([C@H]2[C@@H]2CC[C@@H]([C@@]2(C)C1)O)CCCCCN(CCCCCCCC(C(F)(F)F)(F)F)C)O | C33H49F6NO2
